US06489433B2
A cobalt solution was obtained by dissolving cobalt acetate tetrahydrate (CoAc·4H2O, 4 g) in ethylene glycol (36 g) to produce a cobalt glycolate solution containing 10% cobalt acetate tetrahydrate. After stirring for 60 minutes, large particles dissolved, it became uniform red purple solution. A portion (9 g) of the cobalt acetate tetrahydrate solution and 1 g of a phosphoric acid solution (10% H3PO4 in ethylene glycol) were mixed in an open glass beaker. After shaking, flocculates in dark bluish purple formed in the bottom of the glass beaker. After 10 days, top 3 ml was red liquid mainly ethylene glycol, bottom 7 ml was dark purple flocculates.

reactant | cobalt acetate tetrahydrate | 4 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | ethylene glycol | 36 g | C(CO)O | C2H6O2
product | cobalt glycolate | C(CO)(=O)[O-].[Co+2].C(CO)(=O)[O-] | InChI=1S/2C2H4O3.Co/c2*3-1-2(4)5;/h2*3H,1H2,(H,4,5);/q;;+2/p-2
